US04283414
α-Isopropyl-4-chlorophenylacetic acid (1.3 g) was dissolved in ethanol (10 ml) and a solution of potassium hydroxide (0.34 g) in water (5 ml) was added to the ethanolic solution. The solvents were then removed by distillation under reduced pressure to give anhydrous potassium α-isopropyl-4-chlorophenylacetate.

reactant | α-Isopropyl-4-chlorophenylacetic acid | 1.3 g | C(C)(C)C(C(=O)O)C1=CC=C(C=C1)Cl | C11H13ClO2
reactant | potassium hydroxide | 0.34 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | potassium α-isopropyl-4-chlorophenylacetate | C(C)(C)C(C(=O)[O-])C1=CC=C(C=C1)Cl.[K+] | InChI=1S/C11H13ClO2.K/c1-7(2)10(11(13)14)8-3-5-9(12)6-4-8;/h3-7,10H,1-2H3,(H,13,14);/q;+1/p-1
